US04894385
Methyl 4-[1-(3-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
144 mg of a 55% w/w suspension of sodium hydride in mineral oil were added, whilst ice-cooling, to a solution of 555 mg of methyl 4-mercaptobenzoate in 4 ml of dry dimethylformamide, and the resulting mixture was stirred at room temperature for 30 minutes. A solution of 710 of 1-[2-chloro-2-(3-methoxyphenyl)ethyl]imidazole in 3 ml of dry dimethylformamide was added to this solution, and the reaction mixture was heated at 60°-70° C. for 5.5 hours. At the end of this time, the resulting mixture was treated and purified according to the same procedure as described in Example 1, to give 631 mg of the title compound as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 4-mercaptobenzoate | 555 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-chloro-2-(3-methoxyphenyl)ethyl]imidazole | ClC(CN1C=NC=C1)C1=CC(=CC=C1)OC | C12H13ClN2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(3-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 631 mg | COC=1C=C(C=CC1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C20H20N2O3S
